US03960845
Trimethylchlorosilane(0.5 ml) and triethylamine (0.17 ml) were added to a solution of 7-dichloroacetamido-3-methyl-3-cephem-4-carboxylic acid(325 mg) in chloroform (12 ml). The reaction mixture was stirred at 10°C. overnight to afford a chloroform solution of 7-dichloroacetamido-3-methyl-3-cephem-4-carboxylic acid trimethylsilyl ester. The resulting solution was added dropwise at -50°C. to a mixture prepared from phosphorus pentachloride(220 mg), quinoline(0.15 ml) and chloroform (15 ml). The reaction mixture was stirred at -50°C. for 3 hours and diluted with dry tetrahydrofuran(20 ml). To this solution was added a methanol solution of lithium methoxide prepared from lithium(150 mg) and methanol(15 ml) a -78°C. The mixture was stirred at -78°C. for 30 minutes and treated with acetic acid(1.5 ml). The solution was poured into water and extracted with chloroform. The extracts were washed with water, dried(Na2SO4) and evaporated under reduced pressure. The residue was dissolved in a small amount of chloroform, to which was added excess hexane to precipitate the desired substance. This process was repeated three times to give 240 mg of 7β-(2'-chloro-1'-methoxyethylidenimino)-7α-methoxy-3-methyl-3-cephem-4-carboxylic acid. NMR(CDCl3) δ ppm: 2.05(3H, singlet), 3.03 and 3.43(2H, AB-quartet, J=18 Hz), 3.40(3H, singlet), 3.75(3H, singlet), 4.18 and 4.53(2H, AB-quartet, J=12 Hz), 5.00(1H, singlet).

reactant | Trimethylchlorosilane | 0.5 ml | C[Si](Cl)(C)C | C3H9ClSi
reactant | triethylamine | 0.17 ml | C(C)N(CC)CC | C6H15N
reactant | 7-dichloroacetamido-3-methyl-3-cephem-4-carboxylic acid | 325 mg | ClC(C(=O)NC1[C@@H]2N(C(=C(CS2)C)C(=O)O)C1=O)Cl | C10H10Cl2N2O4S
solvent | chloroform | 12 ml | C(Cl)(Cl)Cl | CHCl3
product | 7-dichloroacetamido-3-methyl-3-cephem-4-carboxylic acid trimethylsilyl ester | C[Si](C)(C)OC(=O)C1=C(CS[C@H]2N1C(C2NC(C(Cl)Cl)=O)=O)C | C13H18Cl2N2O4SSi
